US07750154B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 13 which is concerned with the preparation of starting materials piperidine was reacted with N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitro-5-piperidin-1-ylbenzamide; NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.68 (m, 2H), 1.60 (m, 6H), 2.30 (s, 3H), 2.82 (m, 1H), 3.52 (m, 4H), 7.02 (m, 2H), 7.27 (d, 1H), 7.55 (d, 1H), 7.96 (s, 1H), 8.02 (d, 1H), 8.39 (s, 1H), 9.95 (s, 1H); Mass Spectrum: M+H+ 423.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-2-nitro-5-piperidin-1-ylbenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-])=O)C | C23H26N4O4
